US05405854
500 mg of [[(S)-3-[(S)-1-tert-butoxycarbonyl-piperidin-3-ylmethylcarbamoyl]-2-(naphthalen-2-sulfonylamino)-propionyl]-cyclopropyl-amino]-acetic acid are stirred at room temperature for 20 hours in 10 ml of methylene chloride together with 71 mg of O-methylhydroxylamine hydrochloride, 0.28 ml of N-methylmorpholine and 376 mg of BOP. The mixture is taken up in ethyl acetate and washed with 1N hydrochloric acid and then with water. After drying and evaporation the product is purified over silica gel with ethyl acetate/methanol (9:1). There are obtained 282 mg of tert-butyl (S)-3-[(S)-3-([cyclopropyl-methoxycarbamoylmethylcarbamoyl)]-3-(naphthalen-2-ylsulfonylamino)-propionylaminomethyl]-piperidine-1-carboxylate, MS (ISP): 646.6 (M+H).

reactant | [[(S)-3-[(S)-1-tert-butoxycarbonyl-piperidin-3-ylmethylcarbamoyl]-2-(naphthalen-2-sulfonylamino)-propionyl]-cyclopropyl-amino]-acetic acid | 500 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)CNC(=O)C[C@@H](C(=O)N(C1CC1)CC(=O)O)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C30H40N4O8S
reactant | O-methylhydroxylamine hydrochloride | 71 mg | Cl.CON
reactant | N-methylmorpholine | 0.28 ml | CN1CCOCC1 | C5H11NO
reactant | BOP | 376 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (S)-3-[(S)-3-([cyclopropyl-methoxycarbamoylmethylcarbamoyl)]-3-(naphthalen-2-ylsulfonylamino)-propionylaminomethyl]-piperidine-1-carboxylate | 282 mg | C1(CC1)N(C(=O)[C@H](CC(=O)NC[C@H]1CN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)CC(NOC)=O | C31H43N5O8S
